US05284847
6-Chloro-7-ethylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione
A solution of 7-ethylthieno[2,3-b]pyrazine-2,3(1H,4H)-dione (1.0 g, 5.1 mmol) in 250 ml of acetic acid was stirred in a dry nitrogen atmosphere and sulphuryl chloride (0.41 ml, 5.1 mmol) was added dropwise. Stirring was continued for 1 h, the precipitate was filtered off, washed with water and dried at 100° C. under reduced pressure (30 Torr). Yield 0.77 g (65%) of the title compound. M.p. 282°-284° C. 1H-NMR (DMSO-D6, δ): 1.05 (t, 3H), 2.65 (q, 2H), 12.02 (s, 1H), 12.19 (s, 1H).

reactant | 7-ethylthieno[2,3-b]pyrazine-2,3(1H,4H)-dione | 5.1 mmol, 1.0 g | C(C)C1=CSC=2NC(C(NC21)=O)=O | C8H8N2O2S
reactant | sulphuryl chloride | 5.1 mmol, 0.41 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-7-ethylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione | ClC1=C(C2=C(NC(C(N2)=O)=O)S1)CC | C8H7ClN2O2S
